US07126026B2
A mixture of 4-cyano-3-methylphenylsulfur pentafluoride (41.2 g, 169.4 g), NaOH (20.4 g, 510 mmol) and water (60 ml) in ethylene glycol (160 ml) was heated to 130° C. and stirred at this temperature for 4 h. It was then cooled to room temperature and diluted with MTB ether (150 ml) and water (250 ml), and the mixture was filtered with suction. The phases of the filtrate were separated, and the aqueous was acidified with concentrated aqueous HCl solution, and the precipitated solid was filtered off with suction. 41.1 g (93%) of 2-methyl-4-pentafluorosulfanylbenzoic acid were obtained as colorless crystals, m.p. 138–139° C.

reactant | 4-cyano-3-methylphenylsulfur pentafluoride | 41.2 g | C(#N)C1=C(C=C(C=C1)S(F)(F)(F)(F)F)C | C8H6F5NS
reactant | NaOH | 510 mmol, 20.4 g | [OH-].[Na+]
reactant | ethylene glycol | 160 ml | C(CO)O | C2H6O2
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | water | 250 ml | O | H2O
solvent | water | 60 ml | O | H2O
product | 2-methyl-4-pentafluorosulfanylbenzoic acid | 41.1 g, 93% | CC1=C(C(=O)O)C=CC(=C1)S(F)(F)(F)(F)F | C8H7F5O2S
